US08030487B2
Ethyl 5-methylisoxazole-3-carboxylate (500 mg, 3.22 mmol) was suspended in MeOH-THF-H2O (20 mL, 1:1:1) and lithium hydroxide monohydrate (1.35 g, 32.2 mmol) was added. The reaction mixture was stirred for 16 h at room temperature, and acidified with 1N HCl. The crude product was extracted with ethyl acetate, and ethyl acetate layer was dried (Na2SO4) and solvent evaporated. The white solid thus obtained, was suspended in dichloromethane (30 mL) and treated with thionyl chloride (2.35 mL, 32.3 mmol) at reflux for 6 hr. The reaction mixture was evaporated, and the residue was dissolved in hexane-ethyl acetate mixture (100 mL, 6:4) and quickly filtered through a short silica plug. On evaporation of solvent, 5-methylisoxazole-3-carbonyl chloride was obtained as a colorless syrup (330 mg, 70%).

reactant | Ethyl 5-methylisoxazole-3-carboxylate | 3.22 mmol, 500 mg | CC1=CC(=NO1)C(=O)OCC | C7H9NO3
reactant | lithium hydroxide monohydrate | 32.2 mmol, 1.35 g | O.[OH-].[Li+]
reactant | HCl | 1N | Cl | ClH
reactant | thionyl chloride | 32.3 mmol, 2.35 mL | S(=O)(Cl)Cl | Cl2OS
solvent | MeOH THF H2O | 20 mL | CO.C1CCOC1.O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 5-methylisoxazole-3-carbonyl chloride | CC1=CC(=NO1)C(=O)Cl | C5H4ClNO2
